US05444059
A mixture of 3.59 g (8.85 mmol) of 8-(5-benzyloxy-2-pyrimidinyl)-8-aza-5-azoniaspiro [4.5]decane bromide, 1.47 g (9.73 mmol) of 4,5-dichloro-2-methylimidazole and 4.89 g (35.41mmol) of potassium carbonate in 72 ml of dimethylformamide is refluxed for 12 hours and filtered hot. The dimethylformamide is evaporated and the product is chromatographed on silica gel, yielding 2.90 g (69%) of 2-{4-[4-(4,5-dichloro-2-methylimidazol-1-yl)butyl]-1-piperazinyl}-5-benzyloxypyrimidine.

reactant | 8-(5-benzyloxy-2-pyrimidinyl)-8-aza-5-azoniaspiro [4.5]decane bromide | 8.85 mmol, 3.59 g | [Br-].C(C1=CC=CC=C1)OC=1C=NC(=NC1)N1CC[N+]2(CCCC2)CC1
reactant | 4,5-dichloro-2-methylimidazole | 9.73 mmol, 1.47 g | ClC=1N=C(NC1Cl)C | C4H4Cl2N2
reactant | potassium carbonate | 35.41mmol, 4.89 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 72 ml | CN(C=O)C | C3H7NO
product | 2-{4-[4-(4,5-dichloro-2-methylimidazol-1-yl)butyl]-1-piperazinyl}-5-benzyloxypyrimidine | 2.90 g, 69% | ClC=1N=C(N(C1Cl)CCCCN1CCN(CC1)C1=NC=C(C=N1)OCC1=CC=CC=C1)C | C23H28Cl2N6O
